US06716850B2
This compound was prepared analogously to 2,4-difluoro-2-propynyloxybenzene but using 3,5-difluoro-phenol (14 g, 107 mmol) to give 1,3-difluoro-5-prop-2-ynyloxy-benzene 12 g (67%).

reactant | 2,4-difluoro-2-propynyloxybenzene | FC1(CC=CC(=C1)F)OC#CC | C9H8F2O
reactant | 3,5-difluoro-phenol | 107 mmol, 14 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 1,3-difluoro-5-prop-2-ynyloxy-benzene | 12 g, 67% | FC1=CC(=CC(=C1)OCC#C)F | C9H6F2O
